US05972950
To a solution of 7.85 g (0.0199 mole) of (Z)-2-[1-(4-chlorophenyl)-1-(4-methanesulphonylphenyl)methylene]succinic acid, prepared in example 28, in 40 ml of tetrahydrofuran are added dropwise 5.65 ml (0.0596 mole) of borane/dimethyl sulphide complex. The mixture is then stirred for 3 hours at ambient temperature and then 1 hour at 50° C. After returning to ambient temperature, 5 ml of ethanol are added dropwise. The mixture is then concentrated to half its volume and then taken up into water. The crystals obtained are filtered off under suction and washed with pentane and dried giving 6.92 g of (Z)-2-[1-(4-chlorophenyl)-1-(4-methanesulphonylphenyl)-methylene]-1,4-butanediol in the form of crystals with a melting point of 159-160° C.

reactant | (Z)-2-[1-(4-chlorophenyl)-1-(4-methanesulphonylphenyl)methylene]succinic acid | 0.0199 mole, 7.85 g | ClC1=CC=C(C=C1)\C(\C1=CC=C(C=C1)S(=O)(=O)C)=C(/C(=O)O)\CC(=O)O | C18H15ClO6S
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (Z)-2-[1-(4-chlorophenyl)-1-(4-methanesulphonylphenyl)-methylene]-1,4-butanediol | 6.92 g | ClC1=CC=C(C=C1)\C(\C1=CC=C(C=C1)S(=O)(=O)C)=C(/CO)\CCO | C18H19ClO4S
